US09303045B2
Step 1: 2-(((1,1,1-Trifluoro-2-methylpropan-2-yl)amino)methylene)succinonitrile
A solution of ethyl formate (330 mg, 4.46 mmol) and succinonitrile (300 mg, 3.75 mmol) in toluene (1561 μl) was added dropwise to a suspension of sodium methanolate (215 mg, 3.97 mmol) in toluene (1561 μl) at 0° C. After being stirred at RT for 3 h, the reaction mixture was treated with 1,1,1-trifluoro-2-methylpropan-2-amine (486 mg, 3.82 mmol) and acetic acid (255 μl, 4.46 mmol) then heated at 120° C. for 3 h. After being cooled to RT, the reaction mixture was washed with brine, then dried over anhydrous Na2SO4, filtered and concentrated under reduced pressure to afford the title compound as a brown oil, which was used without further purification.

reactant | ethyl formate | 4.46 mmol, 330 mg | C(=O)OCC | C3H6O2
reactant | succinonitrile | 3.75 mmol, 300 mg | C(CCC#N)#N | C4H4N2
reactant | sodium methanolate | 3.97 mmol, 215 mg | C[O-].[Na+]
reactant | 1,1,1-trifluoro-2-methylpropan-2-amine | 3.82 mmol, 486 mg | FC(C(C)(N)C)(F)F | C4H8F3N
reactant | acetic acid | 4.46 mmol, 255 μl | C(C)(=O)O | C2H4O2
solvent | toluene | 1561 μl | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 1561 μl | C1(=CC=CC=C1)C | C7H8
product | 2-(((1,1,1-Trifluoro-2-methylpropan-2-yl)amino)methylene)succinonitrile | FC(C(C)(C)NC=C(C#N)CC#N)(F)F | C9H10F3N3
